* C:\users\nihilistictinkerer\Documents\personal\meaningless-stuff\hardware-engineering\course-AMA-EE6100-Electric-Circuits-Theory-1\Lesson-05-Nodal-and-Mesh-Analysis\LAB_006_Tonino_Kent_Louise.asc
R1 N001 N002 5
R3 N002 N004 10
R2 N002 N003 6
R4 N003 0 4
V1 N001 0 15
V2 N004 0 10
.tran 20
* I2
* I1
.backanno
.end
